US07053107B2
6-Nitro-3-pyridin-2-ylethynyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazole
A mixture of 3-Iodo-6-nitro-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazole (838 mg, 2.0 mmol), 2-ethynyl-pyridine (242 μL, 2.4 mmol), and triethylamine (6.0 mL), were degassed and flushed with argon, then treated with Cul (8 mg, 0.042 mmol), and Pd(PPh3)2Cl2 (16 mg, 0.023 mmol). The resulting mixture was stirred overnight at room temperature, at which time HPLC indicated all starting material had been consumed. The mixture was purified by stripping of volatiles under high vacuum, then passing through a plug of silica eluted with ethyl acetate. The resulting product was used in the next step without further purification. ESIMS (M+H+): 395.1.

reactant | 3-Iodo-6-nitro-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazole | 2.0 mmol, 838 mg | IC1=NN(C2=CC(=CC=C12)[N+](=O)[O-])COCC[Si](C)(C)C | C13H18IN3O3Si
reactant | 2-ethynyl-pyridine | 2.4 mmol, 242 μL | C(#C)C1=NC=CC=C1 | C7H5N
catalyst | Pd(PPh3)2Cl2 | 0.023 mmol, 16 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | triethylamine | 6.0 mL | C(C)N(CC)CC | C6H15N
product | 6-Nitro-3-pyridin-2-ylethynyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazole | [N+](=O)([O-])C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C#CC1=NC=CC=C1 | C20H22N4O3Si
